US07285555B2
A solution of 5,7-dichloro-6-(2,4,6-trifluorophenyl)imidazo[1,2-a]pyrimidine (16 mg, 0.05 mmol) and 2,2,2-trifluoroethylamine (200 mg, 2.0 mmol) in 1 mL of N,N-dimethylformamide is stirred at room temperature for 16 h. A saturated sodium chloride solution is added, and the product is extracted with ethyl acetate. The organic solution is washed with saturated sodium chloride, dried over magnesium sulfate, and concentrated. The residue is chromatographed over silica gel, eluting with a gradient of 20% ethyl acetate in hexanes to 50% ethyl acetate in hexanes. Concentration provides 7-chloro-N-(2,2,2-trifluoroethyl)-6-(2,4,6-trifluorophenyl)imidazo[1,2-a]pyrimidin-5-amine as a white solid (16 mg, mp 155-157° C.). MS: m/z 381.0 (M+H).

reactant | 5,7-dichloro-6-(2,4,6-trifluorophenyl)imidazo[1,2-a]pyrimidine | 0.05 mmol, 16 mg | ClC1=C(C(=NC=2N1C=CN2)Cl)C2=C(C=C(C=C2F)F)F | C12H4Cl2F3N3
reactant | 2,2,2-trifluoroethylamine | 2.0 mmol, 200 mg | FC(CN)(F)F | C2H4F3N
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 7-chloro-N-(2,2,2-trifluoroethyl)-6-(2,4,6-trifluorophenyl)imidazo[1,2-a]pyrimidin-5-amine | 16 mg | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)NCC(F)(F)F)C=CN2 | C14H7ClF6N4
